** sch_path: /home/bilal/model_generation/fet_sweep.sch 
**.subckt fet_sweep 
VG1 nmos_vgs GND {vgs} 
XM1 nmos_vds nmos_vgs GND GND sky130_fd_pr__nfet_01v8 L={l} W=5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' 
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' 
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1 
VD1 nmos_vds GND {vds} 
XM2 GND net2 net1 net1 sky130_fd_pr__pfet_01v8 L={l} W=5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
VD2 net1 GND {vds}
Vg2 net1 net2 {vgs}

.save i(vds) 
**** begin user architecture code 


.lib D:\Users\Bilal\TinyTapeout\volare\sky130\versions\bdc9412b3e468c102d01b7cf6337be06ec6e9c9a\sky130A\libs.tech\combined\sky130.lib.spice tt 
.param vds= 0.9
.param vgs= 0.6
.param l= 0.15
.op
.control 
	set dut1 = '@m.xm1.msky130_fd_pr__nfet_01v8' 
	set dut2 = '@m.xm2.msky130_fd_pr__pfet_01v8' 
	let cur_vgs = 0
	let step_vgs = 0.01
	let max_vgs = 1.8
	let cur_vds = 0
	let step_vds = 0.01
	let max_vds = 1.8
	set lvalues = ( 0.15 0.18 0.25 0.5 1 2 5 )
	set appendwrite
	foreach lvalue $lvalues
		let cur_vds = 0
		while cur_vds < max_vds+step_vds
			let cur_vgs = 0
			while cur_vgs < max_vgs+step_vgs
				echo current vgs is $&cur_vgs vds is $&cur_vds l is $lvalue
				alterparam vgs = $&cur_vgs
				alterparam vds = $&cur_vds
				alterparam l = $lvalue
				reset
				run
				wrdata sweep_nmos.csv {$dut1}[w] {$dut1}[l] {$dut1}[gm] {$dut1}[vth] {$dut1}[gds] {$dut1}[id] {$dut1}[vds] {$dut1}[vgs] {$dut1}[cgg] {$dut1}[cgd] {$dut1}[cgs] {$dut1}[cdd] {$dut1}[css]
				wrdata sweep_pmos.csv {$dut2}[w] {$dut2}[l] {$dut2}[gm] {$dut2}[vth] {$dut2}[gds] {$dut2}[id] {$dut2}[vds] {$dut2}[vgs] {$dut2}[cgg] {$dut2}[cgd] {$dut2}[cgs] {$dut2}[cdd] {$dut2}[css]
				let cur_vgs = cur_vgs + step_vgs
			end
			let cur_vds = cur_vds + step_vds
		end	
	end
.endc 
.save all 
.GLOBAL GND 
.end 